US05371081
10-(trifluoroacetyl)phenoxazine.
To a solution of 200 mg of phenoxazine in 10 mL anhydrous chloroform and 4 mL anhydrous ether, was added 50 μl of (0.7435 g, 3.54 mmol) trifluoroacetic anhydride. The resulting mixture was stirred at room temperature for 8 hours. The formation of the product was monitored by TLC (system A). The product solution was then extracted with chloroform and evaporated. The residue was subjected to column chromatography which afforded the pure title compound. UV-λmax (MeOH) 212, 238, and 252 nm: IR (KBr) 3375, 1695, 1580, 1480, 1455, 1390, 1290, 1170, 1110, 1030, 965, 890, 850, 800, 760, 730, and 670 cm-1 ; 1H-NMR (`δ`) 7.57-7.61 (m, 2H, ArH, H1 and H9), 7.14-7.32 (m, 6H, ArH, H2 -H4 and H6 -H8); 13 -C-NMR 117.20 (C1 and C9), 123.83 (C4 and C6), 124.34 (C3 and C7), 128.34 (C2 and C8), 151.04 (C1' and C9', and C4' and C6'), and >200 ppm (Ck and C1); EIMS (m/z) 279 (M+).

reactant | phenoxazine | 200 mg | C1=CC=CC=2OC3=CC=CC=C3NC12 | C12H9NO
reactant | trifluoroacetic anhydride | 3.54 mmol, 50 μl, 0.7435 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ether | 4 mL | CCOCC | C4H10O
product | 10-(trifluoroacetyl)phenoxazine | FC(C(=O)N1C2=CC=CC=C2OC=2C=CC=CC12)(F)F | C14H8F3NO2
